US09422267B2
A mixture of 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid (400 mg, 1.12 mmol), piperidine (143 mg, 1.68 mmol), HATU (512 g, 1.34 mmol) and DIPEA (230 mg, 1.79 mmol) in DMF (4 mL) was allowed to stir at RT overnight. The reaction mixture was diluted with water (50 mL) and extracted with EtOAc (2×50 mL). The combined organic layer was washed with water (8×25 mL) and dried over anhydrous sodium sulfate. Removal of EtOAc gave an oily residue which was purified by reverse phase HPLC followed by chiral HPLC to afford 10 mg of (R)-(1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidin-2-yl)(piperidin-1-yl)methanone, and its enantiomer. 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 1.30 (d, 6H), 1.40-1.90 (m, 6H), 1.92-2.12 (m, 5H), 2.30-2.42 (m, 1H), 2.65-2.81 (m, 4H), 2.90-3.01 (m, 1H), 3.40-3.90 (m, 6H), 5.00-5.08 (m, 1H), 6.00 (brs, 1H).

reactant | 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid | 1.12 mmol, 400 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)O)CCC2 | C18H24N6O2
reactant | piperidine | 1.68 mmol, 143 mg | N1CCCCC1 | C5H11N
reactant | HATU | 1.34 mmol, 512 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.79 mmol, 230 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | (R)-(1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidin-2-yl)(piperidin-1-yl)methanone | 10 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@H](CCC1)C(=O)N1CCCCC1)CCC2 | C23H33N7O
